data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7326,"C1=CC=[NH+]C=C1.C[O:1]C1=C2C(=CC=C1)C1=CC=CC=C1N2C(C1=CC=CC=C1)[CH2:2][O:3]S(=O)(=O)C(F)(F)F.O=S(=O)([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7731,"[CH3][Sn]([CH3])([CH3])[C]1=C(C[O:1][Si-:2](C)(C)(C)F)C=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,9512,"C[C:1]#[C:2]C1=CC=CC=C1.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,851,"CC(C)(C)C1=CC=C(C2(O[B-](F)(F)F)C[CH:1]([H:2])[C:3](C3=CC=C(C(C)(C)C)C=C3)=[O+:4]2)C=C1.CC[O:5]CC|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,419,"CC(=O)OCC[Si:1](C)(C)C.C[Si-:2](C)(C)(F)[F:3].O|((2, 3), 1)"
train,pmechdb_split_0,0,5543,"C[Si](C)(C)C=[C:1]=[CH2:2].[H:3][I:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7555,"CC1=C(C2=CC=CC=C2)CCC(C=[O+:1][H:2])C1(C)C.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8835,"CC(=O)CCC(=O)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8509,"COC1=CC([C:1](C(Br)(Br)Br)=[O:2])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.[Br-].[Na+].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7796,"CCC1=C(O)C=C(C2OC(=O)C[C:1]2([H:2])[C:3](OC)=[O:4])C=C1.CO.C[O-:5].C[OH+][Na]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,610,"CC=CCCCC1SCCC[S:1]1.C[S:2][S+:3](C)C.F[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2194,"CCO[C:1](CCC(=O)NC)([OH:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5563,"CC[N+:1](CC)(C(C)(C)O)[H:2].CC[NH:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7695,"CC(=O)[O-:1].CC(C)N(CC1=CC=CC=C1)C(=O)[C:2]1([H:3])[C:4](C)=[C:5]2CC3(O)C4CC5=C(C=CC=C5)C3(CCN4C)C[C:6]2=[NH+:7]1.O|(1, 3);((3, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,7682,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2CCCCC2)CC1C)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6941,"COC1COC(OC)C([O-:1])C1OC.CS(=O)(=O)[O:2][CH3:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5163,"CC(C)[C:1]1([H:2])NC2=C(C=CC=C2)[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5388,"O=C([O-])[CH2:1][Cl:2].[NH3:3].[OH][Ca][OH2+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8732,"C[O+](C)[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,6016,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCCOC1([OH:3])CCCCC1O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6398,"ClC(Cl)(Cl)[CH:1]=[OH+:2].Cl[C:3]1=[CH:4][CH:5]=[CH:6]C=C1.O=S(=O)([O-])O|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2554,"CC1(C2=CC=CC=C2)CC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1754,"C[C:1](=[N+:2]=[N-:3])[C:4](C1=CC=CC=C1)=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6627,"COC1=C([NH+:1](N=O)[H:2])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9649,"CC(C)(C)O.CC1CC2C(C[C:1]3(C)[C:2]2([O-:3])C2C=CC(C)(C)C2C[CH:4]3[O:5]S(C)(=O)=O)C1OCC1=CC=CC=C1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8680,"C1=CC2=C(C=C1)[N-:1]C1=C2C=CC=C1.CC(C)=C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1294,"CO[C:1](C)([O-:2])[O:3]C(=O)CCC=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,274,"CCOC(=O)[CH:1]([H:2])[C:3](OCC)=[O:4].C[C:5](=[CH2:6])[O-:7]|(7, 5);((5, 6), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8938,"CC(C)[CH:1]=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6821,"CC(=O)[C:1](CCCCBr)([H:2])[C:3](C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8353,"CCCCCCCCC=CCCCCCCCC(=O)[O-].CCCCCCCCC=CCCCCCCC[C:1]([N+]1=CC=C(N(C)C)C=C1)([O-:2])[O:3][C:4](NC1CCCCC1)=[NH+:5]C1CCCCC1.CN(C)C1=CC=NC=C1.OCC1=CC=CC=C1|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5686,"CC(C)[O-].CCCCCC(CC(C)C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7738,"COC(=O)C1C2C=CC(C2)[NH:1]1.N#C[CH:2]=[CH2:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6213,"O[P+:1](O)(O)I.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,8345,"CC1CCCC(C)[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,727,"CO.COC(C1=C(Br)SC=C1)=[O+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4310,"C[C+](C)C.O=C(O)CNC(=O)C(CC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,657,"C=CC[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3322,"COC1=C2OC3C45CCN(C6=CC=CC=C6)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,758,"CC(C)(C)[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,10061,"CC1=CC=C[CH+:1][C:2]1(S(=O)(=O)C1=CC=CC=C1)[Sn-:3]([CH3])([CH3])([CH3])[Cl]|((3, 2), 1)"
train,pmechdb_split_0,0,1694,"C[Si](C)(C)[O:1]CCC[O+:2]=[C:3](C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4325,"CCO[C:1](CC(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,206,"O=S(Cl)[O:1][CH2:2]CCO.[Cl-:3]|(3, 2);((2, 1), 1)"
